US07816369B2
N-[4-chloro-3-(5-nitro-1H-benzoimidazol-2-yl)-phenyl]-2-methyl-6-trifluoromethyl-nicotinamide (212 mg; 0.45 mmol) was dissolved in ethanol (4 ml) with 2 drops of concentrated hydrochloric acid. This was added to 5% palladium on charcoal (42 mg; 20 wt %) and the reaction stirred under an atmosphere of hydrogen for 3 hours. The catalyst was removed by filtering through celite and then the solvent by evaporation to leave N-[3-(5-amino-1H-benzoimidazol-2-yl)-4-chloro-phenyl]-2-methyl-6-trifluoromethyl-nicotinamide (198 mg, 100%).

reactant | N-[4-chloro-3-(5-nitro-1H-benzoimidazol-2-yl)-phenyl]-2-methyl-6-trifluoromethyl-nicotinamide | 0.45 mmol, 212 mg | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C21H13ClF3N5O3
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
catalyst | palladium on charcoal | 42 mg | [Pd] | Pd
product | N-[3-(5-amino-1H-benzoimidazol-2-yl)-4-chloro-phenyl]-2-methyl-6-trifluoromethyl-nicotinamide | 198 mg, 100% | NC1=CC2=C(NC(=N2)C=2C=C(C=CC2Cl)NC(C2=C(N=C(C=C2)C(F)(F)F)C)=O)C=C1 | C21H15ClF3N5O
